US09034900B2
Step 1: 2,6-dimethylisoquinolin-1-one
A mixture of 6-bromo-2-methylisoquinolin-1-one (200.0 mg, 0.84 mmol), methylboronic acid (251.0 mg, 4.2 mmol), Pd(PPh3)4 (93.0 mg, 0.08 mmol), K2CO3 (232.0 mg, 1.68 mmol) and H2O (2 drops) in dioxane (10.0 mL) was microwaved at 120° C. for 1 h. Purification by silica gel chromatography (PE:EA=5:1) gave the title compound (120.0 mg, 82.8%) as a light yellow solid. LCMS: 174.3 (M+H)+.

reactant | 6-bromo-2-methylisoquinolin-1-one | 0.84 mmol, 200.0 mg | BrC=1C=C2C=CN(C(C2=CC1)=O)C | C10H8BrNO
reactant | methylboronic acid | 4.2 mmol, 251.0 mg | CB(O)O | CH5BO2
reactant | K2CO3 | 1.68 mmol, 232.0 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | H2O | 2 drops | O | H2O
solvent | dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.08 mmol, 93.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,6-dimethylisoquinolin-1-one | 120.0 mg, 82.8% | CN1C(C2=CC=C(C=C2C=C1)C)=O | C11H11NO
